US07977358B2
In analogy to the procedure described in example 14C] but with 2.8 eq of K3PO4, [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone and phenylboronic acid gave (5-biphenyl-3-yl-1,4-dimethyl-1H-pyrazol-3-yl)-(3-diethylamino-pyrrolidin-1-yl)-methanone in 59% yield as yellow oil. MS: 417.1 (MH+).

reactant | K3PO4 | 2.8 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | BrC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | (5-biphenyl-3-yl-1,4-dimethyl-1H-pyrazol-3-yl)-(3-diethylamino-pyrrolidin-1-yl)-methanone | 59% yield | C1(=CC(=CC=C1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C)C1=CC=CC=C1 | C26H32N4O
